US07956069B2
The preparation of (3aS,7aS)-1-methyl-3-[1-[1-[3-(2-oxopyrrolidin-1-yl)propanoyl]-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one)
To a solution of (3aS,7aS)-1-(1,4′-bipiperidin-4-yl)-3-methyloctahydro-2H-benzimidazol-2-one. 2HCl (71 mg, 0.18 mmol) in DMF (4 mL) was added diisopropylethylamine (0.1 mL, 0.57 mmol) and 3-(2-oxopyrrolidin-1-yl)propanoic acid (34 mg, 0.2 mmol) at room temperature, the mixture was sonicated to dissolve the starting materials and HATU (75 mg, 0.2 mmol) was then added. The solvent was removed under reduced pressure and the mixture was diluted in dichloromethane (60 mL). The mixture was washed with 1N NaOH (5 mL) and brine (5 mL) and concentrated in vacuo. The residue was then purified by high pH prep LCMS to provide the title compound as a white solid (44 mg, 49%). HCl salt-1H NMR (400 MHz, METHANOL-D4) δ ppm 1.24-1.53 (m, 4H), 1.53-1.71 (m, 1H), 1.76-2.11 (m, 7H), 2.10-2.37 (m, 4H), 2.41 (t, J=8.20 Hz, 3H), 2.55-2.81 (m, 4H), 2.66 (s, 3H), 2.87-3.01 (m, 1H), 3.05-3.22 (m, 3H), 3.39-3.67 (m, 8H), 3.74-3.89 (m, 1H), 4.14 (d, J=14.45 Hz, 1H), 4.67 (d, J=13.67 Hz, 1H). MS (M+1): 460.2

reactant | diisopropylethylamine | 0.57 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(2-oxopyrrolidin-1-yl)propanoic acid | 0.2 mmol, 34 mg | O=C1N(CCC1)CCC(=O)O | C7H11NO3
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (3aS,7aS)-1-methyl-3-[1-[1-[3-(2-oxopyrrolidin-1-yl)propanoyl]-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one | 44 mg, 49% | CN1C(N([C@@H]2[C@@H]1CCCC2)C2CCN(CC2)C2CCN(CC2)C(CCN2C(CCC2)=O)=O)=O | C25H41N5O3
